US05681954
5,6-Dimethoxy-1-[(3,4-dimethoxyphenyl)methyl]-3-[2-[4-(2-methoxyphenyl)piperazinyl]ethyl]-2-oxoindole
In dimethylformamide was suspended 38 mg of sodium hydride. To the suspension were added 285 mg of 5,6-dimethoxy-3-[2-[4-(2-methoxyphenyl)-1-piperazinyl]ethyl]-3-methylthio-1,3-dihydro-2(2H)-indolone and 140 mg of 3,4-dimethoxybenzyl chloride. A sodium hydrogencarbonate aqueous solution was added to the reaction mixture, and the mixture was extracted three times with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. The solvent was evaporated, and the residue was dissolved in ethanol. Separately, an acetone solution containing 2.0 g of Raney nickel was refluxed, and the solvent was removed by decantation. To the residue was added the above prepared ethanol solution, followed by refluxing for 15 minutes. A precipitate was removed by filtration, the solvent was evaporated, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:2 to 0:1) to obtain 201 mg of the title compound.

reactant | sodium hydride | 38 mg | [H-].[Na+]
reactant | 5,6-dimethoxy-3-[2-[4-(2-methoxyphenyl)-1-piperazinyl]ethyl]-3-methylthio-1,3-dihydro-2(2H)-indolone | 285 mg | COC=1C=C2C(C(NC2=CC1OC)=O)(SC)CCN1CCN(CC1)C1=C(C=CC=C1)OC | C24H31N3O4S
reactant | 3,4-dimethoxybenzyl chloride | 140 mg | COC=1C=C(CCl)C=CC1OC | C9H11ClO2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5,6-Dimethoxy-1-[(3,4-dimethoxyphenyl)methyl]-3-[2-[4-(2-methoxyphenyl)piperazinyl]ethyl]-2-oxoindole | 201 mg | COC=1C=C2C(C(N(C2=CC1OC)CC1=CC(=C(C=C1)OC)OC)=O)CCN1CCN(CC1)C1=C(C=CC=C1)OC | C32H39N3O6
